US06147188
Ac-Leu-Leu-OCH3 :
Acetyl-Leucine (5.0 g) was dissolved in 150 mL of distilled THF under argon and the resulting solution was cooled to -15°. Next one equivalent of N-methyl morpholine followed by one equivalent of isobutyl chloroformate was added and the reaction was allowed to activate 20 minutes and then another equivalent of N-methyl morpholine followed by HCl-LeuOMe (5.25 g). The reaction is allowed to slowly come to room temperature and stir overnight. The reaction was then poured into 150 mL of 1N HCl and extracted with ethyl acetate (2×150 mL). The combined organic fractions were washed with 1N HCl (15 mL), brine (50 mL), and dried over MgSO4, filtered and the solvent was removed under reduced pressure and then high vacuum. TLC (silica gel, CHCl3 /isopropanol:95:5) showed the product Ac-Leu-Leu-OCH3 to be a single spot Rf 0.36. NMR (100 MHz) δ 0.95 (d, 12H), 1.5 (bs, 6H), 2.0 (s, 3H), 3.7 (s, 3H), 4.5 (q, 2H), 6.6 (d, 1H), 6.8 (d, 1H).

reactant | Acetyl-Leucine | 5.0 g | C(C)(=O)N[C@@H](CC(C)C)C(=O)O | C8H15NO3
reactant | N-methyl morpholine | one equivalent | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | one equivalent | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HCl-LeuOMe | 5.25 g | N([C@@H](CC(C)C)C(=O)OC)Cl | C7H14ClNO2
reactant | HCl | 1N, 150 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Ac-Leu-Leu-OCH3 | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)C | C15H28N2O4
